US03980700
A solution of 2 parts of semicarbazide hydrochloride in 3 parts of water is combined with a solution of 2 parts of 3-hydroxy-5-oxo-2-styrylcyclopent-1-eneheptanoic acid dissolved in 2.95 parts of pyridine and 15.8 parts of ethanol. The resulting solution is allowed to stand for about 16 hours at room temperature. Then the crystalline precipitate is filtered, washed with an aqueous 80% ethanol solution and then with water. After drying, the material is recrystallized from boiling isopropanol to afford pale yellow crystals of 3-hydroxy-5-semicarbazono-2-styrylcyclopent-1-eneheptanoic acid, melting at about 208°-210°, and displaying, in potassium bromide, an infrared absorption spectrum with maxima at about 3480, 1720, 1693 and 1586 reciprocal centimeters. That compound further displays, in methanol, an absorption band in the ultraviolet spectrum at about 355 millimicrons with a molecular extinction coefficient of about 54,000 and is characterized by the following structural formula ##SPC20##

reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
reactant | water | O | H2O
reactant | 3-hydroxy-5-oxo-2-styrylcyclopent-1-eneheptanoic acid | OC1C(=C(C(C1)=O)CCCCCCC(=O)O)C=CC1=CC=CC=C1 | C20H24O4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | 3-hydroxy-5-semicarbazono-2-styrylcyclopent-1-eneheptanoic acid | OC1C(=C(C(C1)=NNC(=O)N)CCCCCCC(=O)O)C=CC1=CC=CC=C1 | C21H27N3O4
